Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Ceclor
 
Attending: ___.
 
Chief Complaint:
loss of consciousness, seizure-like activity
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ M w PMH of OCD, ADHD, anxiety, and depression 
who presents after a first time seizure.  
 Pt states for the last several days he has taken increased dose 
of his risperidone because his mood has been off. He states that 
when he takes the risperdone his legs feel "jelly like". On the 
day of presentation he was having continued feelings of weakness 
in both legs. At around, 11:30AM he walked up the stairs to his 
apartment, he asked his father to walk behind him as he was 
afraid he would fall. Mr. ___ recalls going up the stairs and 
then suddenly feeling like weak then recalls nothing.  
 He states that per his Father there was then "instantaneous" 
generalization to shaking throughout the body. He collapsed, and 
his father helped him to the floor. Patient states he had some 
incontinence. He estimates that the seizure lasted ~5 minutes. 
It  
 resolved spontaneously. ~1 minute after resolution, he began to 
"come to" and ~5 minute after that he had some confusion but 
knew where he was.  
 Mr. ___ denies any episodes concerning for seizure in the 
past. He has no history of significant head trauma or CNS 
infections. He denies any illicit drug use, though does admit to 
taking more Risperidone than directed to "elevate" his mood.  
 His regular dose of Risperdone is ___ per patient but had a 
recent decrease. He states that two days ago he took "3 of his 
pills" and the day before took "double the dose" He has been 
taking his other medications as prescribed.  
 In the ED, initial vitals were: 97.8 130 124/62 16 95% RA. Labs 
were significant for an initial WBC of 9.6, Hgb 14.1, Plt 278, 
Na 135, Bicarb 16, Cr 1.3, Serum tox positive for TCA, Lacate 
1.3, He had a normal head CT  

 
Past Medical History:
 - OCD  
 - ADHD  
 - anxiety / depression  
 
Social History:
___
Family History:
- Older brother (___) with seizure disorder since birth. per 
mother, secondary to ?perinatal hypoxia
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
 Vitals: 97.7 147/79 97 18 97% RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
 Neck: Supple, JVP not elevated, no LAD  
 CV: RRR, no m/r/g  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
 
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2 

DISCHARGE PHYSICAL EXAM
 Vitals: 97.7 147/79 97 18 97% RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
 Neck: Supple, JVP not elevated, no LAD  
 CV: RRR, no m/r/g  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
 
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, normal cerebellar function, normal 
gait
 
Pertinent Results:
LABORATORY STUDIES ON ADMISSION
============================================
___ 12:00PM BLOOD WBC-9.6 RBC-4.64 Hgb-14.1 Hct-43.5 MCV-94 
MCH-30.4 MCHC-32.4 RDW-13.8 RDWSD-47.6* Plt ___
___ 12:00PM BLOOD Neuts-67.9 ___ Monos-9.3 Eos-0.8* 
Baso-0.7 Im ___ AbsNeut-6.53* AbsLymp-1.95 AbsMono-0.89* 
AbsEos-0.08 AbsBaso-0.07
___ 12:00PM BLOOD Glucose-85 UreaN-13 Creat-1.3* Na-135 
K-4.8 Cl-101 HCO3-16* AnGap-23*
___ 12:00PM BLOOD Calcium-9.5 Phos-3.1 Mg-2.0
___ 12:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-POS
___ 04:42PM BLOOD Lactate-1.3
___ 01:55PM URINE Color-Straw Appear-Clear Sp ___
___ 01:55PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 01:55PM URINE RBC-<1 WBC-1 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 01:55PM URINE CastHy-4*
___ 01:55PM URINE Mucous-RARE
___ 01:55PM URINE Hours-RANDOM
___ 01:55PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

LABORATORY STUDIES ON DISCHARGE
============================================
___ 06:50AM BLOOD WBC-7.6 RBC-4.61 Hgb-13.7 Hct-43.3 MCV-94 
MCH-29.7 MCHC-31.6* RDW-14.4 RDWSD-49.5* Plt ___
___ 06:50AM BLOOD Glucose-91 UreaN-12 Creat-1.1 Na-138 
K-4.2 Cl-103 HCO3-29 AnGap-10
___ 06:50AM BLOOD Calcium-9.1 Phos-3.3 Mg-2.2

MICROBIOLOGY
============================================
NONE

IMAGING
============================================
Head CT ___  
There is no evidence of infarction, hemorrhage, edema, or mass. 
The ventricles and sulci are normal in size and configuration. 
No osseous abnormalities seen. The paranasal sinuses, mastoid 
air cells, and middle ear cavities are clear. The orbits are 
unremarkable.  
 
Brief Hospital Course:
___ PMHx OCD, ADHD, anxiety, and depression w/ recent medication 
misuse (self-increased risperidone dose) admitted after a 
first-time event concerning for a seizure (likely provoked by 
medication misuse).

ACTIVE ISSUES:
# First-time provoked seizure
Pt presented following an event concerning for seizure in the 
setting of recent medication misuse. Laboratory studies notable 
for anion gap acidosis that resolved overnight. Serum toxicology 
studies showed positive TCAs, but otherwise negative. Imaging 
notable for a non-contrast head CT that did not show evidence of 
a structural lesion. He was evaluated by Neurology as well as 
Psychiatry. The seizure was likely provoked by recent medication 
misuse. He was monitored overnight with no further episodes. His 
psychiatric medications were adjusted (Bupropion, Mirtazapine 
and Risperidone were discontinued; Clomipramine decreased from 
125mg daily to 75mg daily; and Gabapentin continued at 300mg 
twice daily). Pt was extensively counseled regarding medication 
safety and compliance. He was discharged with plans for 
follow-up with Neurology, Psychiatry and PCP. 

TRANSITIONAL ISSUES
==================================
1. Pt should have ongoing psycho-education regarding medication 
safety and compliance 
2. Pt needs very close follow-up with Psychiatry regarding 
adjustment of his psychiatric medications.
3. Pt counseled that per ___ law, he may not drive for 
6 months following a seizure.
4. Pt and family counseled to remove all old medications from 
the house. 
5. Medication changes: Bupropion, Mirtazapine and Risperidone 
discontinued. Clomipramine decreased from 125mg daily to 75mg 
daily. Gabapentin continued at 300mg twice daily.
6. Pt scheduled for follow-up with outpatient Neurology. 
7. Pt instructed to schedule outpatient EEG and brain MRI.

#CODE: presumed full
#CONTACT: ___ (mother___, father ___
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. RISperidone 4 mg PO DAILY 
2. ClomiPRAMINE 125 mg PO DAILY 
3. Gabapentin 300 mg PO BID 
4. BuPROPion 300 mg PO DAILY 
5. Mirtazapine 7.5 mg PO DAILY:PRN mood disorder 

 
Discharge Medications:
1. Gabapentin 300 mg PO BID 
2. ClomiPRAMINE 75 mg PO DAILY 
RX *clomipramine 75 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: provoked seizure

SECONDARY: OCD, ADHD, anxiety and depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure caring for you at ___.  You were admitted 
because you had a seizure.  The seizure was likely caused by 
incorrectly taking your medications (i.e. increasing your 
risperidone dose).  It is very important for you to take your 
medications as prescribed, and to not increase the dose on your 
own.  

You cannot drive for 6 months after the seizure because of 
___ law.  It would be very dangerous for you to drive 
because you could cause serious harm if you were to have a 
seizure while driving.

Please see the below "recommended follow-up" section for your 
upcoming appointments.

Sincerely,
Your ___ team
 
Followup Instructions:
___